2185-10-22 07:12:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2185-10-21**] 08:00 PM
 IABP LINE - START [**2185-10-21**] 08:30 PM
 PA CATHETER - START [**2185-10-21**] 08:35 PM
 DIALYSIS CATHETER - START [**2185-10-21**] 08:54 PM
 NASAL SWAB - At [**2185-10-21**] 10:54 PM
   mrsa
 ARTERIAL LINE - START [**2185-10-22**] 12:07 AM
   Hyperkalemia
 treated with bicarb, insulin/dextrose, calcium
   gluconate. Resolved this morning.
   on CVVH, renal following.
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Heparin Sodium - 1,100 units/hour
   Milrinone - 0.375 mcg/Kg/min
   KCl (CRRT) - 4 mEq./hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Other ICU medications:
   Insulin - Regular - [**2185-10-21**] 08:49 PM
   Sodium Bicarbonate 8.4% (Amp) - [**2185-10-21**] 08:50 PM
   Furosemide (Lasix) - [**2185-10-22**] 12:17 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-10-22**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.1
C (98.8
   HR: 89 (80 - 91) bpm
   BP: 124/40(87) {87/36(69) - 148/68(103)} mmHg
   RR: 16 (14 - 25) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92 kg (admission): 92 kg
   Height: 62 Inch
    CVP: 12 (12 - 25)mmHg
   PAP: (48 mmHg) / (22 mmHg)
   CO/CI (Fick): (8.4 L/min) / (4.4 L/min/m2)
   Mixed Venous O2% Sat: 59 - 65
   Total In:
                                                                    247 mL
                                                                    263 mL
   PO:
   TF:
   IVF:
                                                                    197 mL
                                                                    263 mL
   Blood products:
   Total out:
                                                                    600 mL
                                                                    622 mL
   Urine:
                                                                    400 mL
                                                                    285 mL
   NG:
                                                                    100 mL
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                   -353 mL
                                                                   -359 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 60%
   RSBI Deferred: Hemodynamic Instability
   PIP: 25 cmH2O
   Plateau: 28 cmH2O
   Compliance: 21.7 cmH2O/mL
   SpO2: 91%
   ABG: 7.47/42/120/31/7
   Ve: 7 L/min
   PaO2 / FiO2: 200
   Physical Examination
   GEN: NAD, intubated
   CV: RRR, no m/r/g
   PULM: ventilator auscultated, rhochi b/l
   ABD: firm, nt
   EXTR: no palpable pulses b/l
   NEURO: PERRL, non-responsive to tactile or verbal stimuli
   Labs / Radiology
   227 K/uL
   7.6 g/dL
   117 mg/dL
   3.6 mg/dL
   31 mEq/L
   3.7 mEq/L
   60 mg/dL
   93 mEq/L
   137 mEq/L
   22.9 %
   9.1 K/uL
        [image002.jpg]
                            [**2185-10-21**]  09:47 PM
                            [**2185-10-21**]  10:49 PM
                            [**2185-10-22**]  02:09 AM
                            [**2185-10-22**]  04:07 AM
                            [**2185-10-22**]  04:17 AM
                            [**2185-10-22**]  06:59 AM
   WBC
   10.7
   9.1
   Hct
   24.8
   22.9
   Plt
   240
   227
   Cr
   3.5
   3.6
   TropT
   6.40
   7.47
   TCO2
   27
   31
   33
   31
   Glucose
   [**Telephone/Fax (3) 8895**]
   Other labs: PT / PTT / INR:15.9/69.1/1.4, CK / CKMB /
   Troponin-T:1245/28/7.47, ALT / AST:2113/4324, Alk Phos / T
   Bili:109/1.0, Differential-Neuts:86.1 %, Lymph:11.0 %, Mono:1.9 %,
   Eos:0.8 %, Lactic Acid:1.6 mmol/L, Albumin:2.8 g/dL, LDH:6890 IU/L,
   Ca++:8.9 mg/dL, Mg++:2.2 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   This is a 57 year old female with HTN, DM, hyperlipidemia who presents
   with acute inferior STEMI and cardiogenic shock.
   .
   # CORONARIES: Acute inferior STEMI in distal LAD wrap around territory.
   S/P BMS to LMCA and LAD.
   -Continue ASA, plavix, statin
   -Hold BB until more hemodynamically stable
   -f/u AM ECG
   -Trend CEZ until peak
   - Transfuse for low Hct in setting of coronary disease, 2u pRBC
   - post-transfusion Hct f/u
   .
   # PUMP: Currently in cardiogenic shock with poor cardiac output, on 1
   inotrope now (not on pressors). Clearly volume overloaded on exam and
   cxr and by cath values. Elevated PA diastolic.
   - Continue IABP for now but will try to wean
   - Continue milrinone for now but will try to wean (priority, wean IABP
   first due to patient with PAD)
   - Monitor CI/CO via PA
   - Will attempt to remove fluid via CRRT but if uop improves will try
   lasix
   - TTE f/u
   - Heparin gtt for IABP and through visualization of apical akinesis on
   TTE
   - f/u AM CXR
   .
   # RHYTHM: Currently in NSR but had an episode of sinus arrest in cath
   lab. Temp pacer in but now mostly native complexes.
   -Continue temp pacer for now but consider removal in am; plan: decrease
   level to 60, monitor, and without need, then can remove
   -ECG f/u
   .
   # Acute renal failure: Likely started before presentation to [**Hospital1 1**].
   Likely from poor forward flow from initial cardiogenic failure. Now
   with muddy brown casts on urine analysis. Hyperkalemia to 6.8 and
   anuria immediately post cath. Also received 320cc of contrast today so
   will likely worsen over next 24-48hrs.
   - f/u Renal recs re: CVVH
   - Hyperkalemia resolved
 [**Hospital1 **] lytes
   - Avoid nephrotoxic agents
   - Finish PO NAC course for post-cath protection
   .
   # Elevated LFTs: Markedly elevated. Likely shock liver.
   -Trend
   .
   # IDDM: Initially high BS on admission.
   -d/c insulin gtt
   -start glargine 15U qhs and ISS
   -will likely need to uptitrate once start tube feeds
   .
   # HTN: Hold home hypertensive regimen until more HD stable.
   -Plan to start with metoprolol first
   .
   # Hyperlipidemia: Atorvastatin 80mg
   .
   FEN: NPO, Nutrition C/S for TF recs
   .
   PROPHYLAXIS:
   -DVT ppx with Heparin gtt
   -Pain management IV fentanyl
   -Bowel regimen
   .
   CODE: full
   .
   COMM: Family, Daughter ([**Doctor First Name 5604**]) is HCP. [**Telephone/Fax (1) 8874**] home,
   [**Telephone/Fax (1) 8875**] cell. Spoke with patient
s family last night and this
   morning.
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   IABP line - [**2185-10-21**] 08:30 PM
   PA Catheter - [**2185-10-21**] 08:35 PM
   22 Gauge - [**2185-10-21**] 08:39 PM
   20 Gauge - [**2185-10-21**] 08:41 PM
   Dialysis Catheter - [**2185-10-21**] 08:54 PM
   Arterial Line - [**2185-10-22**] 12:07 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2185-10-23 06:06:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -TTE:  EF 50-55%
   The left atrium is normal in size. There is mild symmetric left
   ventricular hypertrophy with normal cavity size. There is mild regional
   left ventricular systolic dysfunction with focal hypokinesis of the mid
   to distal septum, distal inferior wall, and possibly apex (not well
   visualized) . Overall left ventricular systolic function is low normal
   (LVEF 50-55%). The remaining left ventricular segments contract
   normally. Right ventricular chamber size and free wall motion are
   normal. The aortic valve leaflets (3) are mildly thickened but aortic
   stenosis is not present. No aortic regurgitation is seen. The mitral
   valve leaflets are mildly thickened. Trivial mitral regurgitation is
   seen. **The tricuspid regurgitation jet is eccentric and may be
   underestimated.** There is moderate pulmonary artery systolic
   hypertension. There is a small pericardial effusion.
   IMPRESSION: Regional left ventricular dysfunction consistent with CAD.
   Moderate pulmonary hypertension. Small circumferential pericardial
   effusion.
   -CVVH started today
   -Temp pacer down to rate 50, sensitivity 0.8, then turned off and
   placed on standby.
   -2U PRBC given for hct drop yesterday morning, appropriate response.
   Also draining brown fluid from NG tube, possibly old blood.
   -Had slow drift down of MAP to ~50 from high 50's with -1.5L removal
   over >24hr on CVVH. Gave back 250cc
bolus' with CVVH while swan
   numbers pending, with improvement of MAP.
   - Started on Glargine 15 and tube feeds (sugars had been high)
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Heparin Sodium - 650 units/hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Fentanyl - 100 mcg/hour
   Milrinone - 0.375 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-10-23**] 06:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 87 (77 - 89) bpm
   BP: 83/26(59) {80/25(57) - 134/52(94)} mmHg
   RR: 18 (14 - 19) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92 kg (admission): 92 kg
   Height: 62 Inch
    CVP: 8 (8 - 15)mmHg
   PAP: (41 mmHg) / (19 mmHg)
   CO/CI (Fick): (5.5 L/min) / (2.8 L/min/m2)
   Mixed Venous O2% Sat: 50 - 64
   Total In:
                                                                  3,096 mL
                                                                    714 mL
   PO:
   TF:
   IVF:
                                                                  2,536 mL
                                                                    714 mL
   Blood products:
                                                                    560 mL
   Total out:
                                                                  4,746 mL
                                                                    924 mL
   Urine:
                                                                    323 mL
   NG:
                                                                    360 mL
                                                                    250 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,650 mL
                                                                   -209 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 21 cmH2O
   Compliance: 64.1 cmH2O/mL
   SpO2: 97%
   ABG: 7.32/42/109/19/-4
   Ve: 6.7 L/min
   PaO2 / FiO2: 273
   Physical Examination
   GEN: NAD, intubated
   CV: RRR, no m/r/g
   PULM: Equal BS anteriorly on ventilator
   ABD: Soft, non-distended
   EXTR: Warm, no palpable pulses b/l, will doppler today
   NEURO: PERRL, non-responsive to tactile or verbal stimuli
   Labs / Radiology
   229 K/uL
   9.1 g/dL
   254 mg/dL
   2.5 mg/dL
   19 mEq/L
    5.2 mEq/L
   37 mg/dL
   99 mEq/L
   141 mEq/L
   27.7 %
   12.5 K/uL
        [image002.jpg]
                            [**2185-10-22**]  04:17 AM
                            [**2185-10-22**]  06:59 AM
                            [**2185-10-22**]  09:02 AM
                            [**2185-10-22**]  09:46 AM
                            [**2185-10-22**]  03:19 PM
                            [**2185-10-22**]  03:31 PM
                            [**2185-10-22**]  10:04 PM
                            [**2185-10-22**]  10:06 PM
                            [**2185-10-23**]  03:58 AM
                            [**2185-10-23**]  04:06 AM
   WBC
   12.5
   Hct
   28.5
   27.7
   Plt
   229
   Cr
   2.7
   2.6
   2.5
   TropT
   8.10
   6.88
   TCO2
   33
   31
   30
   26
   22
   23
   Glucose
   117
   156
   214
   273
   254
   261
   254
   Other labs: PT / PTT / INR:13.5/65.2/1.2, CK / CKMB /
   Troponin-T:[**Numeric Identifier 8914**]/94/6.88, ALT / AST:2042/3195, Alk Phos / T
   Bili:133/0.8, Differential-Neuts:83.3 %, Band:0.0 %, Lymph:11.4 %,
   Mono:4.8 %, Eos:0.2 %, Lactic Acid:2.7 mmol/L, Albumin:2.8 g/dL,
   LDH:4165 IU/L, Ca++:8.9 mg/dL, Mg++:2.2 mg/dL, PO4:4.8 mg/dL
   Imaging: TTE [**10-22**]
   The left atrium is normal in size. There is mild symmetric left
   ventricular hypertrophy with normal cavity size. There is mild regional
   left ventricular systolic dysfunction with focal hypokinesis of the mid
   to distal septum, distal inferior wall, and possibly apex (not well
   visualized) . Overall left ventricular systolic function is low normal
   (LVEF 50-55%). The remaining left ventricular segments contract
   normally. Right ventricular chamber size and free wall motion are
   normal. The aortic valve leaflets (3) are mildly thickened but aortic
   stenosis is not present. No aortic regurgitation is seen. The mitral
   valve leaflets are mildly thickened. Trivial mitral regurgitation is
   seen. The tricuspid regurgitation jet is eccentric and may be
   underestimated. There is moderate pulmonary artery systolic
   hypertension. There is a small pericardial effusion.
   IMPRESSION: Regional left ventricular dysfunction consistent with CAD.
   Moderate pulmonary hypertension. Small circumferential pericardial
   effusion.  EF 50-55%.
   CXR [**10-22**]
   Portable, supine radiograph of the chest again demonstrates a
   nasogastric tube looped once in the stomach with the tip directed
   superiorly within the mid-to- distal esophagus. The endotracheal tube
   and right internal jugular central venous catheter are in unchanged
   positions. Swan-Ganz catheter and transvenous pacemaker are again seen.
   There is no pneumothorax or pleural fluid. Mild pulmonary edema is
   decreased and patchy opacity in the right upper lobe is unchanged.
   CXR [**10-23**] pending
   Assessment and Plan
 This is a 57 year old female with HTN, DM, hyperlipidemia who
   presents with acute inferior STEMI and cardiogenic shock.
   .
   # Hypotension/Volume Status:  TTE yesterday showed improved LV function
   with EF 50-55%, swan numbers consistent with volume depletion.  Renal
   recommended continuing to remove fluid with CVVH as MAP tolerates, as
   patient likely intravascularly volume deplete but total body fluid
   overloaded and needs to slowly re-equilibrate.
   -Run CVVH even for now
   -Monitor swan numbers throughout the day to determine volume status
   -Decrease PEEP to help relieve hypotension
   -Titrate down Milrinone until off, as this will likely help increase BP
   and patient
s cardiac function does not warrant milrinone
   -D/C balloon pump later today after Milrinone off
   .
   # PUMP: Currently in cardiogenic shock with poor cardiac output, on 1
   inotrope now (not on pressors). Clearly volume overloaded on exam and
   cxr and by cath values. Elevated PA diastolic.
   - Wean and d/c Milrinone as above
   - Wean IABP as above
   - Monitor CI/CO via PA
   - CVVH even for now, readdress today based on swan numbers
   - Continue Heparin gtt for poor visualization of apex on TTE, possible
   apical akinesis
   .
   # CORONARIES: Acute inferior STEMI in distal LAD wrap around territory.
   S/P BMS to LMCA and LAD.
   -Continue ASA, plavix, statin
   -Hold BB until more hemodynamically stable
   -Trend CEs until peak
   - Transfuse for Hct <25 in setting of coronary disease
   .
   # RHYTHM: Currently in NSR but had an episode of sinus arrest in cath
   lab. Temp pacer in but on standby now with native pacing.
   -Pacing intrinsically, pacer on standby; pull temp pacing wire today
   .
   # Acute renal failure: Likely started before presentation to [**Hospital1 1**].
   Likely from poor forward flow from initial cardiogenic failure. Now
   with muddy brown casts on urine analysis. Hyperkalemia to 6.8 and
   anuria immediately post cath. Also received 320cc of contrast today so
   will likely worsen over next 24-48hrs.  Currently improving.
   - f/u Renal recs re: CVVH
   - q6h electrolytes per CVVH protocol
   - trend Cr
   - Avoid nephrotoxic agents
   .
   # Elevated LFTs: Markedly elevated. Likely shock liver.
   -Trend LFTs
   .
   # IDDM: Initially high BS on admission.
   -Uptitrate glargine; currently at 15U qhs, and continue ISS
   .
   # HTN: Hold home hypertensive regimen until more HD stable.
   -Plan to start with metoprolol first
   .
   # Hyperlipidemia: Continue Atorvastatin 80mg
   .
   FEN: NPO, Nutrition C/S for TF recs
   ICU Care
   Nutrition: NPO; tube feed recs in
   Glycemic Control:
   Lines:
   IABP line - [**2185-10-21**] 08:30 PM
   PA Catheter - [**2185-10-21**] 08:35 PM
   22 Gauge - [**2185-10-21**] 08:39 PM
   20 Gauge - [**2185-10-21**] 08:41 PM
   Dialysis Catheter - [**2185-10-21**] 08:54 PM
   Arterial Line - [**2185-10-22**] 12:07 AM
   Prophylaxis:
   DVT: Heparin gtt
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Family, Daughter ([**Doctor First Name 5604**]) is HCP.
   [**Telephone/Fax (1) 8874**] home, [**Telephone/Fax (1) 8875**] cell. Spoke with patient
s family last
   night and this morning.
   Code status: Full code
   Disposition:  CCU care

2185-10-24 07:21:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: chest pain
   24 Hour Events:
 IABP LINE - STOP [**2185-10-23**] 11:34 AM
   -ISS increased
   -fasciotomy for LLE compartment syndrome, started on keflex per [**Doctor First Name **]
   recs
   -heparin restarted
   -temp pacer removed
   -CK continues to increase, RR increased d/t metabolic acidosis
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Keflex - [**2185-10-23**] 11:42 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Heparin Sodium - 850 units/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Fentanyl - 75 mcg/hour
   Dopamine - 16 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2185-10-23**] 11:53 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-10-24**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.3
C (99.1
   HR: 95 (70 - 101) bpm
   BP: 110/35(44) {77/28(44) - 110/35(74)} mmHg
   RR: 20 (11 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92 kg (admission): 92 kg
   Height: 62 Inch
    CVP: 7 (7 - 14)mmHg
   PAP: (48 mmHg) / (24 mmHg)
   CO/CI (Fick): (4 L/min) / (2.1 L/min/m2)
   Mixed Venous O2% Sat: 58 - 74
   Total In:
                                                                  3,651 mL
                                                                    775 mL
   PO:
   TF:
   IVF:
                                                                  2,976 mL
                                                                    775 mL
   Blood products:
                                                                    675 mL
   Total out:
                                                                  1,179 mL
                                                                    996 mL
   Urine:
                                                                      5 mL
   NG:
                                                                    255 mL
   Stool:
   Drains:
   Balance:
                                                                  2,472 mL
                                                                   -221 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   Plateau: 23 cmH2O
   Compliance: 38.5 cmH2O/mL
   SpO2: 100%
   ABG: 7.44/30/144/19/-1
   Ve: 10.5 L/min
   PaO2 / FiO2: 360
   Physical Examination
   GEN: intubated, not responsive to tactile/auditory stimuli
   CV: RRR c [**2-4**] SM heard throughout precordium
   RESP: CTAB
   ABD: +BS, S, NT/ND
   EXT: LLE still tense with faint distal pulses.  RLE not tense with 1+
   pulses distally.  No appreciable edema.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   213 K/uL
   12.4 g/dL
   298 mg/dL
   2.5 mg/dL
   19 mEq/L
   5.3 mEq/L
   38 mg/dL
   97 mEq/L
   132 mEq/L
   36.6 %
   14.1 K/uL
        [image002.jpg]
                            [**2185-10-23**]  01:16 PM
                            [**2185-10-23**]  02:33 PM
                            [**2185-10-23**]  02:45 PM
                            [**2185-10-23**]  05:22 PM
                            [**2185-10-23**]  07:07 PM
                            [**2185-10-24**]  12:24 AM
                            [**2185-10-24**]  12:32 AM
                            [**2185-10-24**]  01:51 AM
                            [**2185-10-24**]  04:03 AM
                            [**2185-10-24**]  04:19 AM
   WBC
   12.4
   12.3
   14.1
   Hct
   30
   28.2
   28.1
   36.4
   36.6
   Plt
   230
   189
   213
   Cr
   2.2
   2.2
   2.5
   TropT
   7.99
   TCO2
   23
   20
   19
   20
   21
   Glucose
   193
   212
   298
   Other labs: PT / PTT / INR:11.9/47.3/1.0, CK / CKMB /
   Troponin-T:[**Numeric Identifier 8926**]/402/7.99, ALT / AST:2042/3195, Alk Phos / T
   Bili:133/0.8, Differential-Neuts:83.3 %, Band:0.0 %, Lymph:11.4 %,
   Mono:4.8 %, Eos:0.2 %, Lactic Acid:1.7 mmol/L, Albumin:2.8 g/dL,
   LDH:4165 IU/L, Ca++:8.5 mg/dL, Mg++:2.2 mg/dL, PO4:5.0 mg/dL
   Assessment and Plan
   57 yo F c HTN, DM, HLP p/w acute inferior STEMI, cardiogenic shock
   .
   # CORONARIES: Acute inferior STEMI in distal LAD wrap around territory.
   S/P BMS to LMCA and LAD.
   - Continue ASA, plavix, statin
   - Hold BB until more hemodynamically stable
   - f/u AM ECG
   - s/p 2u pRBC transfusion with Hct 28.1
 36.4
   .
   # PUMP: Currently in cardiogenic shock with poor cardiac output, on
   dopamine gtt.  Clearly volume overloaded on exam and cxr and by cath
   values. Elevated PA diastolic.
   - Off IABP at this time [**1-31**] development of compartment sx in LLE.
   - Continue dopamine.
   - Monitor CI/CO via PA
   - CVVHD for volume removal.
   - TTE f/u
   - Heparin gtt for IABP and through visualization of apical akinesis on
   TTE
   - f/u AM CXR
   .
   # RHYTHM: Currently in NSR but had an episode of sinus arrest in cath
   lab. Temp pacer in but now mostly native complexes.
   -Continue temp pacer for now but consider removal in am; plan: decrease
   level to 60, monitor, and without need, then can remove
   -ECG f/u
   .
   # Acute renal failure: Likely started before presentation to [**Hospital1 1**].
   Likely from poor forward flow from initial cardiogenic failure. Now
   with muddy brown casts on urine analysis. Hyperkalemia to 6.8 and
   anuria immediately post cath. Also received 320cc of contrast today so
   will likely worsen over next 24-48hrs.
   - f/u Renal recs re: CVVH
   - Hyperkalemia resolved
 [**Hospital1 **] lytes
   - Avoid nephrotoxic agents
   - Finish PO NAC course for post-cath protection
   .
   # Elevated LFTs: Markedly elevated. Likely shock liver.
   -Trend
   .
   # IDDM: Initially high BS on admission.
   -d/c insulin gtt
   -start glargine 15U qhs and ISS
   -will likely need to uptitrate once start tube feeds
   .
   # HTN: Hold home hypertensive regimen until more HD stable.
   -Plan to start with metoprolol first
   .
   # Hyperlipidemia: Atorvastatin 80mg
   .
   FEN: NPO, Nutrition C/S for TF recs
   .
   PROPHYLAXIS:
   -DVT ppx with Heparin gtt
   -Pain management IV fentanyl
   -Bowel regimen
   .
   CODE: full
   .
   COMM: Family, Daughter ([**Doctor First Name 5604**]) is HCP. [**Telephone/Fax (1) 8874**] home,
   [**Telephone/Fax (1) 8875**] cell. Spoke with patient
s family last night and this
   morning.
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Cordis/Introducer - [**2185-10-21**] 08:30 PM
   PA Catheter - [**2185-10-21**] 08:35 PM
   22 Gauge - [**2185-10-21**] 08:39 PM
   20 Gauge - [**2185-10-21**] 08:41 PM
   Dialysis Catheter - [**2185-10-21**] 08:54 PM
   Arterial Line - [**2185-10-22**] 12:07 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2185-12-13 07:55:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Albumin still 2.3
   - [**Last Name (un) 294**] recs: reduce lantus to 12 and reduced ISS.  Will require
   frequent BG monitoring today.
   - HD: pt was mildly hypotensive and nauseous.  Thought to be dry.
   Given Zofran.
   - ID recs: cont Fluc for 30 days, weekly LFTs, monthly ESR/CRP.  Outpt
   appt set up.
   - Neuro f/u 1 month.  will call family with appointment date/time.
   - Vascular appt in 2 weeks, set.
   - Renal: hold BB night prior to HD and HD days
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2185-12-12**] 08:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-12-13**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.7
C (98
   HR: 89 (85 - 115) bpm
   BP: 108/46(61) {80/43(55) - 143/98(103)} mmHg
   RR: 22 (13 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.2 kg (admission): 92 kg
   Height: 62 Inch
                  Total In:
                                                                    455 mL
                  PO:
                  TF:
                                                                    337 mL
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    455 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ////
   Physical Examination
   Gen: well appearing female, NAD
   CV: RRR, S1 and S2
   Resp: CTAB anteriorly
   Abd: soft, ND, NT, ABS
   Ext: wwp, palpable pulses, unable to move or feel LE bilaterally.  LLE
   w/ wound vacs in place.
   Neuro: awake, alert
   Labs / Radiology
   367 K/uL
   9.5 g/dL
   74 mg/dL
   2.7 mg/dL
   28 mEq/L
   4.1 mEq/L
   35 mg/dL
   98 mEq/L
   138 mEq/L
   30.6 %
   9.8 K/uL
        [image002.jpg]
                             [**2185-12-5**]  10:57 AM
                             [**2185-12-6**]  03:57 AM
                             [**2185-12-6**]  03:50 PM
                             [**2185-12-7**]  02:17 AM
                            [**2185-12-8**]  04:50 AM
                            [**2185-12-9**]  04:24 AM
                            [**2185-12-10**]  04:03 AM
                            [**2185-12-11**]  05:26 AM
                            [**2185-12-12**]  04:34 AM
                            [**2185-12-13**]  06:07 AM
   WBC
   10.2
   12.2
   12.7
   9.4
   9.5
   10.1
   9.8
   9.8
   Hct
   31.9
   26.5
   26.6
   24.9
   29.5
   29.7
   30.5
   30.6
   Plt
   599
   529
   525
   [**Telephone/Fax (2) 9893**]67
   Cr
   1.2
   2.2
   2.4
   2.1
   1.9
   2.7
   1.8
   2.5
   2.7
   Glucose
   249
   233
   78
   111
   138
   274
   139
   74
   Other labs: PT / PTT / INR:12.5/26.0/1.1, CK / CKMB /
   Troponin-T:366/27/7.99, ALT / AST:33/94, Alk Phos / T Bili:222/0.3,
   Amylase / Lipase:/7, Differential-Neuts:62.8 %, Band:0.0 %, Lymph:26.2
   %, Mono:4.3 %, Eos:5.7 %, D-dimer:2458 ng/mL, Fibrinogen:765 mg/dL,
   Lactic Acid:1.4 mmol/L, Albumin:2.3 g/dL, LDH:376 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.1 mg/dL, PO4:5.4 mg/dL
   Fingersticks: 97, 64, 121, 218, 205, 229, 243, 154, 127, 48, 77, 80,
   117, 177, 223
   IMAGING:
   [**12-12**] CXR: dobhoff coiled in stomach
   Assessment and Plan
   57 yo F c HTN, DM, HLP p/w acute inferior STEMI, cardiogenic shock.
   Hospital course complicated by development of right lower extremity
   compartment syndrome requiring fasciotomy
   # hypotension: with HD
   - cont midodrine 10mg TID on HD days
   - hold metoprolol on HD days and night dose prior to HD
   # Neuro: f/u in [**Hospital **] clinic 1 month
   # Resp:  satting well on trach mask, finished 8d treatment for
   xanthomonas PNA on [**12-6**]
   - Given no sx, will assume colonoization over PNA.  No tx.
   - cont trach mask, FiO2 to maintain sats > 93%
   # Renal:  RRF requiring HD (starting on [**11-19**]) by tunneled line. HD
   MWF.
   - Renally dose all meds
   - f/u renal recs
   - continue Midodrine on HD days to maintain BP, hold metoprolol night
   prior to HD and on HD days
   # Heme: S/p transfusion of 27u pRBC, 2u FFP, 2u platelets, 2units Cryo
   through hospital course.  HIT ab was negative. HCT stable
   - continue to monitor Hct
   - continue  Ranitidine daily
   - on epo with HD
   # compartment sx s/p fasciotomy
 Likely developed [**1-31**] IABP use.  IABP
   now removed, patient s/p LLE fasciotomy.  Necrotic wounds debrided
   extensively and as per plastics no longer appear infected.  Prior cx
   growing [**Female First Name (un) 444**] sensitive to fluconazole although x-ray with no
   evidence of osteomyelitis on [**12-10**].   Currently with bilateral wound
   vacs
   - f/u Plastics re: outpatient f/u
   - f/u Vascular recs re: outpatient f/u
 appointment set
   - continue local wound care
   - continue Fluconazole for extended treatment: 200 q 24 hours (renal
   dosing) for at least 30 days.  Check weekly CBC with differential, LFTs
   while on fluconazole. Follow ESR, CRP monthly ([**12-3**]: ESR 80, CRP 273.6)
   - ID outpatient f/u
 appointment set.
   # IDDM
  persistent FS 48-243.
   - reduce glargine to 12 units daily
   - decreased RISS
   - f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 294**] recs
   # Elevated LFTs: Markedly elevated. Likely shock liver and rhabdo.
   Significantly downtrended since hospitalization, now only increased AP
   likely bone source relating to osteomyelitis. F/u weekly while on Fluc
   (next [**12-15**]).
   # Acute inferior STEMI in distal LAD wrap-around territory: S/P BMS to
   LMCA and LAD.   Repeat ECHO shows EF 50% and regional dysfunction c/w
   LAD disease. Pt has been hemodynamically stable for several weeks.
   - Continue ASA, plavix, statin, b-block
   - hold BB night prior to HD days and on HD days
   # FEN: pulled NGT on [**11-28**].  Dobhoff replaced by IR [**2185-11-29**] and bridled
   to prevent extraction. TF restarted with Nupogen full, has been
   intermittent with clogging problems. Vomited out overnight, replaced
   coiled in stomach.
   - PEG tube pending albumin > 2.5
   - encourage po intake
   # PROPHYLAXIS:
   - DVT ppx if HCT stable
 SQ heparin
   - pain management fentanyl patch, morphine prn
   - bowel regimen (senna + colace), lactulose prn
   # CODE: full
   # COMM: Family, Daughter ([**Doctor First Name 5604**]) is HCP. [**Telephone/Fax (1) 8874**] home,
   [**Telephone/Fax (1) 8875**] cell.  Family meeting with multidisciplinary team today
   # DISPO: CCU for now, rehab pending
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2185-11-22**] 02:00 PM
   PICC Line - [**2185-12-8**] 12:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) **] and [**Doctor Last Name 980**].
   I would add the following remarks:
   Medical Decision Making
   Patient is awake alert and conversive today. She has no complaints.
   Beta blockers are on hold the night before HD and day of HD and she
   continues to get Midodrine for BP support during HD. ID has recommended
   a 30 day course of Fluconazole to treat fungal infection of the LLE.
   She has been accepted to rehab today for PT and ongoing care of the LLE
   wound. We will set her up with the wound clinic as an outpatient. She
   will need CBC and LFTs at rehab on Fluconazole.
   I have discussed this plan with Dr(s). [**Name (NI) **] and [**Doctor Last Name 980**].
   Total time spent on patient care: 40 minutes of critical care time.